US09334290B2
A mixture of 3-(3-bromo-2-methylphenyl)-8-methoxyquinazoline-2,4(1H,3H)-dione (535 mg, 1.48 mmol), iodomethane (0.185 mL, 2.96 mmol) and Cs2CO3 (965 mg, 2.96 mmol) in THF (20 mL) was stirred at room temperature overnight. The mixture was filtered and concentrated. The residue was dissolved in DCM, washed sequentially with saturated aqueous NaHCO3 and water, dried and concentrated. The residue was purified by column chromatography on silica gel (40 g silica), eluting with EtOAc-hexanes (gradient from 0-100%), to give 3-(3-bromo-2-methylphenyl)-8-methoxy-1-methylquinazoline-2,4(1H,3H)-dione (442 mg). Mass spectrum m/z 375, 377 (M+H)+. 1H NMR (400 MHz, chloroform-d) δ 7.90 (dd, J=7.2, 2.3 Hz, 1H), 7.66 (dd, J=8.0, 1.2 Hz, 1H), 7.31-7.22 (m, 2H), 7.22-7.19 (m, 1H), 7.17-7.13 (m, 1H), 3.97 (s, 3H), 3.89 (s, 3H), 2.23 (s, 3H).

reactant | 3-(3-bromo-2-methylphenyl)-8-methoxyquinazoline-2,4(1H,3H)-dione | 1.48 mmol, 535 mg | BrC=1C(=C(C=CC1)N1C(NC2=C(C=CC=C2C1=O)OC)=O)C | C16H13BrN2O3
reactant | iodomethane | 2.96 mmol, 0.185 mL | IC | CH3I
reactant | Cs2CO3 | 2.96 mmol, 965 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(3-bromo-2-methylphenyl)-8-methoxy-1-methylquinazoline-2,4(1H,3H)-dione | 442 mg | BrC=1C(=C(C=CC1)N1C(N(C2=C(C=CC=C2C1=O)OC)C)=O)C | C17H15BrN2O3
